US04931482
1,1,1,4,4,4-Hexafluoro-2-bromo-3-chloro-2-butene (10 g, 36 mmole) in 50 ml tetrahydrofuran was hydrogenated in the presence of sodium hydroxide (3.0 g) and Raney nickel (5 g) at a temperature of 20° to 40° C. and under a hydrogen pressure of 20 to 40 bar. The reaction mixture was worked up as in Example B, producing 3.5 g (59% of theory) of 1,1,1,4,4,4-hexafluorobutane.

reactant | 1,1,1,4,4,4-Hexafluoro-2-bromo-3-chloro-2-butene | 36 mmole, 10 g | FC(C(=C(C(F)(F)F)Cl)Br)(F)F | C4BrClF6
reactant | sodium hydroxide | 3.0 g | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | 1,1,1,4,4,4-hexafluorobutane | 3.5 g, 59% | FC(CCC(F)(F)F)(F)F | C4H4F6
